US03994731
a. Synthesis of Ethyl o-Acetylphenoxyacetate
A mixture of 136 g of o-hydroxyacetophenone, 167 g of ethyl bromoacetate and 205 g of potassium carbonate was refluxed in 3 l of acetone for 6 hours under heating with stirring. The insoluble materials were filtered from the reaction mixture and the acetone was evaporated from the filtrate. Further, the mixture was distilled to obtain a fraction having a boiling point of 132° C/2 mmHg which was then recrystallized from ligroin to obtain 150 g of the product.

reactant | o-hydroxyacetophenone | 136 g | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | ethyl bromoacetate | 167 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 205 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 3 l | CC(=O)C | C3H6O
product | Ethyl o-Acetylphenoxyacetate | 150 g | C(C)(=O)C1=C(OCC(=O)OCC)C=CC=C1 | C12H14O4
